US06211215B1
In substantially the same manner as in Reference Example 47, 5-bromo-4-methyl-2-thiophenecarboxamide was allowed to react with 1,3-dichloroacetone to give 2-(5-bromo-4-methyl-2-thienyl)-4-chloromethyloxazole. The yield was 53%. Recrystallization from ethyl acetate-hexane gave clolorless prisms, mp 71-72° C.

reactant | 5-bromo-4-methyl-2-thiophenecarboxamide | BrC1=C(C=C(S1)C(=O)N)C | C6H6BrNOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 2-(5-bromo-4-methyl-2-thienyl)-4-chloromethyloxazole | yield was 53% | BrC1=C(C=C(S1)C=1OC=C(N1)CCl)C | C9H7BrClNOS
